US08975398B2
tert-butyl 1-(6-methylpyridazin-3-yl)azetidine-3-carboxylate
The title compound was prepared as described in Example 1C, substituting 3-chloro-6-methylpyridazine for 3-bromopyridine and tert-butyl azetidine-3-carboxylate for tert-butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate.

reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | tert-butyl azetidine-3-carboxylate | N1CC(C1)C(=O)OC(C)(C)C | C8H15NO2
reactant | tert-butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H29N3O4
product | tert-butyl 1-(6-methylpyridazin-3-yl)azetidine-3-carboxylate | CC1=CC=C(N=N1)N1CC(C1)C(=O)OC(C)(C)C | C13H19N3O2
